US07585885B2
2-(R)-(2-(S)-Dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
Add sec-butyllithium (1.29 mL, 1.8 mmol) dropwise to a solution of (−)-sparteine (0.44 mL, 1.36 mmol) in diethyl ether (10 mL) over 3 min at −78° C. Add N-Boc-pyrrolidine (0.245 mL, 1.4 mmol) in diethyl ether (2 mL) dropwise over 10 min. Stir 2 h, add 2-(S)-dibenzylamino-3-phenylpropionaldehyde (0.69 g, 2.1 mmol) in diethyl ether (1.8 mL) over 5 min and stir 20 min. Add acetic acid (0.16 mL) and warn to room temperature. Add saturated aqueous sodium chloride (20 mL), separate layers, dry (magnesium sulfate), concentrate and purify (silica gel chromatography, eluting with hexanes and ethyl acetate) to give the title compound as a foam (0.421 g, 60%).

reactant | sec-butyllithium | 1.8 mmol, 1.29 mL | C(C)(CC)[Li]
reactant | (−)-sparteine | 1.36 mmol, 0.44 mL | C1CCN2C[C@@H]3C[C@H]([C@H]2C1)CN4[C@H]3CCCC4 | C15H26N2
reactant | N-Boc-pyrrolidine | 1.4 mmol, 0.245 mL | C(=O)(OC(C)(C)C)N1CCCC1 | C9H17NO2
reactant | 2-(S)-dibenzylamino-3-phenylpropionaldehyde | 2.1 mmol, 0.69 g | C(C1=CC=CC=C1)N([C@H](C=O)CC1=CC=CC=C1)CC1=CC=CC=C1 | C23H23NO
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 2 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 1.8 mL | C(C)OCC | C4H10O
solvent | acetic acid | 0.16 mL | C(C)(=O)O | C2H4O2
product | 2-(R)-(2-(S)-Dibenzylamino-1-(S)-hydroxy-3-phenylpropyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.421 g, 60% | C(C)(C)(C)OC(=O)N1[C@H](CCC1)[C@H]([C@H](CC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)O | C32H40N2O3
